2190-07-20 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ABG at 12:30 AM showed: pH: 7.52, PCO2: 45, PO2: 268, HCO3: 38.
   -1 AM and 5AM EKG: sinus rhythm with ventricular rate 61.  Normal
   Axis.  QRS: 118msec.
   -No further episodes of emesis. No SOB, feeling faint, CP, dark stools.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 90 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-20**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 63 (59 - 91) bpm
   BP: 133/90(99) {115/76(85) - 158/117(126)} mmHg
   RR: 14 (14 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,414 mL
                                                                  1,527 mL
   PO:
             TF:
   IVF:
                                                                  1,714 mL
                                                                  1,527 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    400 mL
   Urine:
                                                                  1,400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.52/45/268/27/12
   Ve: 8.1 L/min
   PaO2 / FiO2: 536
   Physical Examination
   General: NAD, not diaphoretic
   HEENT: PERRLA, not responding to peripheral stimuli
   Neck: supple
   Lungs: CTA B with no w/r/r
   Cardiac: RRR with no m/r/g
   Abdomen: soft, NT, ND, + BS in all 4 quadrants
   Extr: warm, 2+ pedal pulses
   Neuro: unable to assess, sedate
   Skin: numerous tatoos located
   Labs / Radiology
   180 K/uL
   13.3 g/dL
   108 mg/dL
   0.9 mg/dL
   36 mEq/L
   2.9 mEq/L
   9mg/dL
   95mEq/L
   139mEq/L
   37.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2190-7-19**]  01:00 PM
                             [**2190-7-19**]  07:25 PM
                             [**2190-7-20**]  12:35 AM
   WBC
   7.3
   Hct
   42.3
   Plt
   235
   Cr
   0.8
   TropT
   <0.01
   TCO2
   32
   38
   Glucose
   104
   Other labs: CK / CKMB / Troponin-T:52//<0.01, ALT / AST:39/25, Alk Phos
   / T Bili:52/0.5, Differential-Neuts:61.8 %, Lymph:32.1 %, Mono:4.5 %,
   Eos:1.3 %, Lactic Acid:1.3 mmol/L
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   .
   Micro:
   [**2190-7-19**]: Blood cx pending.
   [**2190-7-19**]: Urine cx pending.
   .
   Imaging:
   CXR ([**2190-7-20**]): My read: ET tube placed and in proper place.  No acute
   cardiopulmonary process.
   Assessment and Plan
   31 year old male with polysubstance abuse currently in rehab who
   presents with altered mental status after suspected ingestion of
   unknown medication, consistent with TCA versus antichlonigeric
   medication (bentyl)
   .
   #) Altered mental status: Likely secondary to drug ingestion.
   Clinicially suggestive of anticholenergic ingestion, as EKG has
   terminal R in AVR, sligthly wide QRS, slurred downsloping S wave in
   V6.  This points towards TCA/anticholinergic (bentyl) overdose.  Other
   less likely medications that can cause this condition include cocaine,
   sympathomimetic agents, proserotinergic agents, atypical
   antipsychotics, beta blockers, diphenhydramine, carbamazepine.
   - f/u on  toxicology recs, especially the length of bicarb gtt and how
   often get ABG
   - Continue bicarbonate drip for 24 hours (150meq in 1 L D5W at
   200cc/h).  Keep pH 7.45-7.55.  This therapy will overcome sodium
   channel blockade and properly alkalinize the serum.
   - if pts pH approaches 7.55 and QRS remains prolonged, consider
   hypertonic saline or placing sodium bicarb in D5 1/4 NS to increase
   sodium load.
   - Follow EKG q4 hours
   - Monitor on telemetry
   - f/u quantitative TCA
   - TCA levels positive in urine and serum, toxicology screen
   - depakote level WNL
   - Head CT completed on way to ED, follow up final results
   - Obtain additional information from PCP, [**Name10 (NameIs) **], friends when possible
   - CSF studies WNL
   .
   #) Respiratory failure:  Intubated to protect airway in the setting of
   altered mental status.  Currently on AC ventilation 600X14.  FiO2 0.5
   and PEEP 5. On propofol. On bicarb drip D5W with 2 amp bicarb at
   200cc/h.
   - alkalemic from D5 drip so switched to PSV; monitor pH closely
   - consider switch to pressure support, spontaneous breathing trial
   after discussing with Toxicology re length of bicarb gtt
   .
   #) fever:
   -may be secondary to anticholinergic medication
   -u/a negative
   -csf gram stain showed no organisms
   -CXR within normal limits
   -CT head: no acute intracranial abnormalities
   - antibiotics d/c
   .
   #) Depression:
   -prozac 20mg qAM
   -seroquel 50mg QHS
   .
   #) Polysubstance Abuse:  alcohol, cocaine, heroin, benzodiazepine
   addiction documented.  Currently in rehab. LFTS WNL (sent due to
   unknown ingestion of other medications)
   - social work consult ordered
   .
   #) Possible seizure disorder:  [**Month (only) 8**] be secondary to withdrawal
   symptoms.  At therapeutic levels.  On day 4 of 7 with last day on
   [**2190-7-22**].
   -depakote 500mg [**Hospital1 **]
   -speak to [**Hospital3 **] in AM
   .
   #) Code: Presumed Full
   .
   #) ICU Care:
   - 2X 18g needles
   - NPO for now
   - VAP bundle
   - PPI while intubated
   - Heparin subcutaneous for DVT prophylaxis
   - Nutrition: NPO for now.
   - Communication: Wife: [**Name (NI) 423**].  [**Telephone/Fax (1) 8641**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-7-19**] 05:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-07-20 09:16:00 Physician Attending Progress Note
Chief Complaint: OD (presumed TCA), ECG changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   31 yo M with PSA presents with presumed TCA OD, intubated for airway
   protection.
   24 Hour Events:
 EKG - At [**2190-7-19**] 05:10 PM
   LP in ed--> bland
   Bicarb gtt initiated
                                                  History obtained from ho
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-20**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 59 (59 - 91) bpm
   BP: 128/88(97) {115/76(85) - 158/117(126)} mmHg
   RR: 14 (14 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,414 mL
                                                                  2,198 mL
   PO:
             TF:
   IVF:
                                                                  1,714 mL
                                                                  2,198 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,260 mL
   Urine:
                                                                  1,400 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                    938 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.52/45/268/36/12
   Ve: 8.1 L/min
   PaO2 / FiO2: 536
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   13.3 g/dL
   180 K/uL
   108 mg/dL
   0.9 mg/dL
   36 mEq/L
   2.9 mEq/L
   9 mg/dL
   95 mEq/L
   139 mEq/L
   37.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2190-7-19**]  01:00 PM
                             [**2190-7-19**]  07:25 PM
                             [**2190-7-20**]  12:35 AM
                             [**2190-7-20**]  05:24 AM
   WBC
   7.3
   9.5
   Hct
   42.3
   37.5
   Plt
   235
   180
   Cr
   0.8
   0.9
   TropT
   <0.01
   TCO2
   32
   38
   Glucose
   104
   108
   Other labs: CK / CKMB / Troponin-T:52//<0.01, ALT / AST:39/25, Alk Phos
   / T Bili:52/0.5, Differential-Neuts:61.8 %, Lymph:32.1 %, Mono:4.5 %,
   Eos:1.3 %, Lactic Acid:1.3 mmol/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Imaging: cxr--no focal findings  ECGs reviewed
   Microbiology: [**7-19**] bl and urine and LP cx pending
   Assessment and Plan
 POISONING / OVERDOSE, OTHER
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   31 yo M with PSA presents with presumed TCA or anticholinergic
   overdose, intubated for airway protection
          OD
          ECG changes
          Resp failure
          Fevers
   Remains intubated for airway protection. alkemia from d5 drip.  Will
   clarify plans with tox service and likely ttransition to SBT for
   extubation.  Will monitor Ph [**Last Name (un) 3927**] as MV will change once on PS.  Wean
   fio2 to 35%
   Overdose seems like TCA based on tox and ECG though multiple substances
   could contribute to simialr picture (anticholinergics in aprticular).
   Toxicology input appreciated.  We continue bicrab gtt X 24 hrs
   following serial ecgs to monitor qrs and montuior tele for evidence of
   hemodynamic instability, arrythmias.   Quntitative Tca levels sent out.
   Fevers: pan cx pending, likely related to toxins/OD.  AF since with no
   other clear sources.  F/u cx data.
   Depression and prob suicide attempt
social work and psych consults when
   awake.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: NPO pending extubation.
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-7-19**] 05:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2190-07-21 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - bicarb discontinued at around noon time
   - q4 EKG overall improving after bicard discontinued (QRS 110 down from
   138)
   - extubated successfully at 4PM
   - K low at 2.9 and 3.6, repleted
   - talked to [**Name (NI) 8659**], unclear why pt is getting kepakote.  Per pt this
   morning, reports history of [**12-22**] seizures in the past.
   - SW and psych didn't see pt yesterday
   - per pt:  headache, back pain
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-21**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 88 (59 - 102) bpm
   BP: 138/71(87) {106/56(67) - 146/100(109)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 78.2 kg
             Total In:
                                                                  4,023 mL
                                                                    431 mL
   PO:
             TF:
   IVF:
                                                                  3,883 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                    700 mL
   Urine:
                                                                  4,310 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -287 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: None
   Vt (Set): None
   RR (Set): Not set
   RR (Spontaneous): 12
   PEEP:
   FiO2: None
   PIP: None
   Plateau: None
   SpO2: 99% on RA
   ABG: ////
   Ve: None
   Physical Examination
   General: NAD, not diaphoretic
   HEENT: PERRLA, not responding to peripheral stimuli
   Neck: supple
   Lungs: CTA B with no w/r/r
   Cardiac: RRR with no m/r/g
   Abdomen: soft, NT, ND, + BS in all 4 quadrants
   Extr: warm, 2+ pedal pulses
   Skin: numerous tatoos locatedNeurologic: Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   203 K/uL
   14.0 g/dL
   86 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   6 mg/dL
   109 mEq/L
   144mEq/L
   40.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2190-7-19**]  01:00 PM
                             [**2190-7-19**]  07:25 PM
                             [**2190-7-20**]  12:35 AM
                             [**2190-7-20**]  05:24 AM
                             [**2190-7-21**]  12:00 AM
   WBC
   7.3
   9.5
   9.9
   Hct
   42.3
   37.5
   40.2
   Plt
   235
   180
   203
   Cr
   0.8
   0.9
   TropT
   <0.01
   TCO2
   32
   38
   Glucose
   104
   108
   Other labs: Ca+=: 8.7 mg/dL,  Mg++: 2.0 mg/dL, PO4: 3.8  mg/dL
   .
   Micro:
   -urine culture [**7-19**]: no growth (final)
   -blood culture [**7-19**]: no growth to date
   -CSF [**7-19**]: Gram stain: no organisms, no PMNs.  Culture: No growth to
   date (prelim)
   -MRSA screen [**7-20**]: pending
   .
   Imaging: [**7-21**] My read: ET tube no longer present. No acute
   cardiopulmonary process.
   Assessment and Plan
   Assessment and Plan
   31 year old male with polysubstance abuse currently in rehab who
   presents with altered mental status after suspected ingestion of
   medication consistent with TCA versus anticholinergic medication
   (bentyl)
   .
   #) Altered mental status: Likely secondary to drug ingestion.
   Clinicially suggestive of anticholenergic ingestion, as EKG has
   terminal R in AVR, sligthly wide QRS, slurred downsloping S wave in
   V6.  This points towards TCA/anticholinergic (bentyl) overdose.  Also
   positive TCA levels in urine and serum.  Other less likely medications
   that can cause this condition include cocaine, sympathomimetic agents,
   proserotinergic agents, atypical antipsychotics, beta blockers,
   diphenhydramine, carbamazepine.  Depakote levels WNL.
   - check with toxicology regarding T wave inversions on EKG
   - bicarb was discontinued at noon yesterday
   - q4 EKG overall improving after bicarb discontinued
   - no events on telemetry
   - f/u quantitative TCA
   - Head CT completed on way to ED, follow up final results
   - Obtain additional information from PCP, [**Name10 (NameIs) **], friends when possible
   - CSF studies WNL
   .
   #) Respiratory failure:  Intubated intially to protect airway in the
   setting of altered mental status.  Patient was transitioned to PS and
   patient successfully extubated yesterday.
   -previously on AC vent 600X14 with FiO2 weaned to 0.35
   -FiO2 was weaned and patient was able to be extubated successfully.
   .
   #) fever: Initially febrile, likely secondary to medication overdose
   (TCA).  No other sources of infection.  Will follow up on culture data.
   -u/a negative
   -csf gram stain showed no organisms
   -CXR within normal limits
   -CT head: no acute intracranial abnormalities
   - antibiotics d/c
d on reaching the floor
   .
   #) lumbar back pain: obtain films today
   #) Depression:
   -psychiatry did not leave recommendations yesterday, recontact today
   -prozac 20mg qAM
   -seroquel 50mg QHS
   .
   #) Polysubstance Abuse:  alcohol, cocaine, heroin, benzodiazepine
   addiction documented.  Currently in rehab. LFTS WNL (sent due to
   unknown ingestion of other medications)
   - social work consult did not leave recommendations yesterday
   .
   #) Possible seizure disorder:  [**Month (only) 8**] be secondary to withdrawal
   symptoms.  At therapeutic levels.  On day 6 of 7 with last day on
   [**2190-7-22**].
   -depakote 500mg [**Hospital **]
   [**Hospital3 8660**] was [**Name (NI) 161**], and they were not clear as to why
   patient was receiving depakote
   .
   #) Code: Full
   .
   #) Dispo: planned call out to floor today.
   ICU Care
   Nutrition: NPO for now due to possibly extubation today
   Glycemic Control:
   Lines: None.
   18 Gauge X2 - [**2190-7-19**] 05:12 PM
   Prophylaxis:
   DVT: heparin subcutaneous for DVT prophylaxis
   Stress ulcer: PPi while intubated
   VAP:  VAP bundle
   Communication:  Comments: Communication: Wife: [**Name (NI) 423**].  [**Telephone/Fax (1) 8641**]
   Code status: Full code
   Disposition: ICU

2190-07-21 12:13:00 Physician Attending Progress Note
Chief Complaint: OD TCA,s resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   31 yo M with PSA presents with presumed TCA or anticholinergic
   overdose, intubated for airway protection
   24 Hour Events:
 EKG - At [**2190-7-20**] 09:30 AM
   extubated successfully, bicrb stopped, qrs narrowed
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-7-21**] 08:07 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-21**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 106 (65 - 106) bpm
   BP: 139/71(92) {106/56(67) - 155/100(109)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.4 kg (admission): 78.2 kg
             Total In:
                                                                  4,023 mL
                                                                    510 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  3,883 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,000 mL
   Urine:
                                                                  4,310 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -287 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm, tattoos
   Back
intermittent paraspinal tenderness, no bruising or erythema noted
   Neurologic: Attentive, Follows simple commands, Responds to:verbal,
   Movement: purposeful, slightly temulous,
   nonfocal
   Labs / Radiology
   14.0 g/dL
   203 K/uL
   86 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   6 mg/dL
   109 mEq/L
   144 mEq/L
   40.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2190-7-19**]  01:00 PM
                             [**2190-7-19**]  07:25 PM
                             [**2190-7-20**]  12:35 AM
                             [**2190-7-20**]  05:24 AM
                             [**2190-7-21**]  12:00 AM
   WBC
   7.3
   9.5
   9.9
   Hct
   42.3
   37.5
   40.2
   Plt
   235
   180
   203
   Cr
   0.8
   0.9
   0.8
   TropT
   <0.01
   TCO2
   32
   38
   Glucose
   104
   108
   86
   Other labs: CK / CKMB / Troponin-T:52//<0.01, ALT / AST:39/25, Alk Phos
   / T Bili:52/0.5, Differential-Neuts:61.8 %, Lymph:32.1 %, Mono:4.5 %,
   Eos:1.3 %, Lactic Acid:1.3 mmol/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   Imaging: cxr withoutn focal process
   Microbiology: urine cx [**7-19**] ngtd, bl ngtd, csf ngtd
   Assessment and Plan
   31 yo M with PSA presents with presumed TCA or anticholinergic overdose
   Issues include:
              Back pain
          OD (TCA)
          ECG changes (resolved)
          Resp failure (extubated)
          Fever (resolved)
              sz d/o
              Depression
   Overdose appears c/w TCA based on tox and ECG, though multiple
   substances could contribute to similar picture (anticholinergics in
   particular). Toxicology input appreciated. His bicarb gtt is off and
   his QRS has narrowed on f/u ecg.  He does have changes in TW
   morphology- those these are not c/w TCA -changes and may be his
   baseline.  Will clarify w/ tox service.  Will need ecgs monitored on
   floor.
   He remains af. Suspect his temp at presentation was related to
   toxins/OD. No clear sources and cx's remain neg to date.  Unclear
   etiology of his back pain
unclear if related to prior [**Name (NI) 8673**] vs possibly
   the LP.  Tylenol if needed and check plain films.
   Depression and prob suicide attempt
>social work and psych consults.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: Po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-7-19**] 05:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for Transfer to floor
   Total time spent: 35 minutes